US08034895B2
Synthesis of 2-amino-5-[(5-nitro-thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester (R═NO2)
In a 50 mL round bottom flask, 30 mg of 2,5-diamino-thiophene-3,4-dicarboxylic acid diethyl ester was dissolved in 20 mL of isopropanol. To this solution, 5-nitro-2-thiophenecarboxaldehyde (91 mg) was added with vigorous stirring, followed by the addition of a catalytic amount of TFA. The reaction was refluxed for 30 minutes. The title compound was isolated as a dark black-purple powder (87%) by flash chromatography (SiO2). M.p.: 194°-196° C. 1H-NMR (300 MHz, [D] acetone): δ=8.21 (s, 1H), 8.00 (d, 1H, 3J=4.4 Hz), 7.74 (s, 2H), 7.50 (d, 1H, 3J=4.4 Hz), 4.37 (q, 2H, 3J=7.1 Hz), 4.22 (q, 2H, 3J=7.1 Hz), 1.40 (t, 3H, 3J=7.1 Hz), 1.27 (t, 3H, 3J=7.1 Hz).

reactant | 5-nitro-2-thiophenecarboxaldehyde | 91 mg | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2,5-diamino-thiophene-3,4-dicarboxylic acid diethyl ester | 30 mg | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N)N | C10H14N2O4S
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 2-amino-5-[(5-nitro-thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N=CC=1SC(=CC1)[N+](=O)[O-])N | C15H15N3O6S2
